US07947706B2
To a solution of 260 mg of methyl 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate in 30 mL of a 7N solution of ammonia in methanol are added 5 mL of 22% aqueous ammonia solution. The reaction mixture is then stirred for 20 hours in an autoclave at 80° C. (12.6 bar) and then concentrated under reduced pressure. The residue obtained is chromatographed on a column of silica (eluent: 9/1 dichloromethane/methanol by volume). The fractions containing the expected product are concentrated under reduced pressure. 140 mg of 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are obtained in the form of a pale yellow solid, the characteristics of which are as follows:

reactant | methyl 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 260 mg | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)OC | C15H13N3O2
reactant | ammonia | N | H3N
reactant | ammonia | 5 mL | N | H3N
solvent | methanol | CO | CH4O
product | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 140 mg | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
